US04408076
To a slurry of LiAlH4 (200 mg) in anhydrous ether (15 ml) is added at 0° a solution of ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-3-oxopentanoate(400 mg) in ether (5 ml). After addition is complete, the reaction mixture is stirred at RT for about one hour. Excess of the hydride is decomposed using wet ether and water, the mixture is filtered and filtrate concentrated. The oily product is purified by prep. thin layer chromatography to give 4-[4-(4-trifluoromethylphenoxy)phenoxy]-pentane-1,3-diol, MS m/e 500 (M+).

reactant | LiAlH4 | 200 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-3-oxopentanoate | 400 mg | FC(C1=CC=C(OC2=CC=C(OC(C(CC(=O)OCC)=O)C)C=C2)C=C1)(F)F | C20H19F3O5
reactant | hydride | [H-]
reactant | water | O | H2O
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | ether | 5 ml | CCOCC | C4H10O
product | 4-[4-(4-trifluoromethylphenoxy)phenoxy]-pentane-1,3-diol | FC(C1=CC=C(OC2=CC=C(OC(C(CCO)O)C)C=C2)C=C1)(F)F | C18H19F3O4
